US07935722B2
(R)-N-[9-(3-Fluorobenzyl)-6-(4-methylthiazol-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]isobutyramide
Combine chloroacetone (0.197 g, 2.13 mmol) and (R)-N-(9-(3-fluorobenzyl)-6-thiocarbamoyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl)isobutyramide (Preparation 22) (0.300 g, 0.708 mmol) and heat at 80° C. in DMF under nitrogen for 2.5 h. Upon cooling, dilute the mixture with water and collect the precipitate by filtration. Slurry the precipitate in hot EtOAc to give 0.278 g of a yellow solid. MS (ES): m/z 462 (M+1); HPLC: Rt=3.33 min (100%).

reactant | chloroacetone | 2.13 mmol, 0.197 g | ClCC(C)=O | C3H5ClO
reactant | (R)-N-(9-(3-fluorobenzyl)-6-thiocarbamoyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl)isobutyramide | 0.708 mmol, 0.300 g | FC=1C=C(CN2C3=CC=C(C=C3C=3C[C@@H](CCC23)NC(C(C)C)=O)C(N)=S)C=CC1 | C24H26FN3OS
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (R)-N-[9-(3-Fluorobenzyl)-6-(4-methylthiazol-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]isobutyramide | 0.278 g | FC=1C=C(CN2C3=CC=C(C=C3C=3C[C@@H](CCC23)NC(C(C)C)=O)C=2SC=C(N2)C)C=CC1 | C27H28FN3OS
